US05264609
A mixture of benzo[b]thiophen-2(3H)-one (11.2 g) aqueous sodium hydroxide (5.58 g in 100 ml water) and tetrahydrofuran (10 ml) was heated under reflux for two hours. A solution of 2,5-difluorobenzyl bromide (15.5 g) in tetrahydrofuran (10 ml) was added and the mixture refluxed for a further 2 hours and allowed to cool. The aqueous layer was clarified by ether extraction and then acidified with concentrated hydrochloric acid. The precipitate was collected, washed with water and dried. The solid was recrystallised from dipropyl ether/hexane to give [2-(2,5-difluorobenzylthio)phenyl]acetic acid, mp 106.5°-107.5°. A solution of this product (14.4 g) in methanol (150 ml) containing concentrated sulphuric acid (0.5 ml) was heated under reflux for 4 hours, cooled and evaporated. The residue was dissolved in ethyl acetate/ether and washed with water and aqueous sodium bicarbonate, dried and evaporated to give methyl [2-(2,5-difluorobenzylthio)phenyl]acetate, as a light brown oil.

reactant | benzo[b]thiophen-2(3H)-one | 100 ml, 11.2 g | S1C2=C(CC1=O)C=CC=C2 | C8H6OS
reactant | 2,5-difluorobenzyl bromide | 15.5 g | FC1=C(CBr)C=C(C=C1)F | C7H5BrF2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [2-(2,5-difluorobenzylthio)phenyl]acetic acid | FC1=C(CSC2=C(C=CC=C2)CC(=O)O)C=C(C=C1)F | C15H12F2O2S
